US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (400 mg) is dissolved in isopropyl alcohol (2 ml), then thereto are added thioglycolic acid methyl ester (120 μl), copper iodide (20 mg), ethylene glycol (62 μl) and potassium carbonate (156 mg), and the mixture is stirred at 80° C. under nitrogen flow overnight. After allowing to cool to room temperature, water is added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer is washed with a saturated brine twice, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is dissolved in methanol (6 ml), then thereto are added 1M-aqueous sodium hydroxide solution (3 ml) and tetrahydrofuran (6 ml), and the mixture is stirred at room temperature for 10 minutes. Ten % aqueous citric acid solution is added to the reaction mixture and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine twice, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=2:1→1:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethylsulfanyl-pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (153 mg).MS (m/z): 674 [M+H]+

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)I)CC | C27H26F6IN5O3
reactant | thioglycolic acid methyl ester | 120 μl | COC(CS)=O | C3H6O2S
reactant | ethylene glycol | 62 μl | C(CO)O | C2H6O2
reactant | potassium carbonate | 156 mg | C([O-])([O-])=O.[K+].[K+]
solvent | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
catalyst | copper iodide | 20 mg | [Cu](I)I
solvent | water | O | H2O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-carboxymethylsulfanyl-pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 153 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)SCC(=O)O)CC | C29H29F6N5O5S
